US04880799
C. 2,3,4,5-Tetrahydro-4-methyl-2-oxo-1H-1,4-benzodiazepine
2.0 g N-(o-aminobenzyl)sarcosine ethyl ester was dissolved in 40 g polyphosphoric acid and the mixture was heated to 150° C. for two hours, then cooled and charged with 300 ml icewater. pH was adjusted to 8 with 50% NaOH and the mixture was extracted with dichloromethane. The organic phase was dried over Na2SO4 and evaporated to give the title compound. M.p. 113°-114° C.

reactant | N-(o-aminobenzyl)sarcosine ethyl ester | 2.0 g | C(C)OC(CN(C)CC1=C(C=CC=C1)N)=O | C12H18N2O2
reactant | NaOH | [OH-].[Na+]
product | 2,3,4,5-Tetrahydro-4-methyl-2-oxo-1H-1,4-benzodiazepine | CN1CC(NC2=C(C1)C=CC=C2)=O | C10H12N2O
